US07777047B2
ethyl {2-[7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate
A mixture of 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide (2.14 g), Lawesson's reagent (2.14 g) and tetrahydrofuran (50 mL) was stirred at 50° C. for 1.5 hr, and heated under reflux for 1.5 hr. The reaction mixture was concentrated, and the residue was washed with diisopropyl ether to give pale-yellow crystals. The obtained crystals were subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:2, volume ratio) to give yellow crystals. A mixture of the obtained crystals, ethyl but-2-ynoate (1.49 g), tributylphosphine (1.07 g), toluene (30 mL) and tetrahydrofuran (10 mL) was stirred at 70° C. for 5 hr. ethyl but-2-ynoate (900 mg) and tributylphosphine (1.07 g) were added to the mixture, and the mixture was further stirred at room temperature for 2.5 days. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:3, volume ratio) to give the title compound (780 mg, yield 28%) as a brown oil.

reactant | 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 2.14 g | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C(=O)N)OC(F)(F)F | C14H10F3N3O4S2
reactant | Lawesson's reagent | 2.14 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl but-2-ynoate | 1.49 g | C(C#CC)(=O)OCC | C6H8O2
reactant | tributylphosphine | 1.07 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl but-2-ynoate | 900 mg | C(C#CC)(=O)OCC | C6H8O2
reactant | tributylphosphine | 1.07 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ethyl {2-[7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 780 mg, yield 28% | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)OC(F)(F)F | C20H18F3N3O5S3
